US06303816B1
2-(4-Benzyloxyphenyl)propionitrile
4-Hydroxyphenylacetonitrile (15.3 g, 114.9 mmol) was dissolved in dimethylformamide (120 ml) and to this was added potassium carbonate (23.78 g, 172.4 mmol), benzyl bromide (20.64 g, 120.6 mmol) and potassium iodide (3.81 g, 30.0 mmol). The solution was stirred at ambient temperature for 6 hours after which water was added. 4-Benzyloxyphenylacetonitrile precipitated out of solution. The suspension was filtered and the precipitate washed with water (3×). Yield 24.8 g (97%) as yellow crystals. The title product was prepared from 4-benzyloxyphenyl-acetonitrile as described in Preparation 7.

reactant | 4-Hydroxyphenylacetonitrile | 114.9 mmol, 15.3 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | potassium carbonate | 172.4 mmol, 23.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 120.6 mmol, 20.64 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium iodide | 30.0 mmol, 3.81 g | [I-].[K+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-Benzyloxyphenyl)propionitrile | Yield 76% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C#N)C | C16H15NO
